US07842696B2
HOBt (24 mg, 0.18 mmol) and DIPEA (74 mg, 0.57 mmol) were added to a stirred solution of 5-phenyl-1H-pyrazole-3-carboxylic acid; hydrochloride (32 mg, 0.14 mmol) in DMF (1.0 mL). The mixture was then cooled to 10° C. and EDCI.HCl (34 mg, 0.18 mmol), followed by 2-amino-1-[4-(2,5-dichloro-benzoyl)-piperazin-1-yl]-ethanone hydrochloride (50 mg, 0.14 mmol) were added. The reaction mixture was then stirred at room temperature overnight. Water was added, and the resulting precipitate was isolated by filtration and dried under reduced pressure to afford 5-phenyl-1H-pyrazole-3-carboxylic acid {2-[4-(2,5-dichloro-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide as a solid in 89.47% Yield. LC-MS purity: 92.226%. 1H-NMR (DMSO): δ 8.6 (s, 1H), 8.1 (t, 1H), 7.8 (m, 2H), 7.6 (m, 3H), 7.45 (m, 4H), 7.1 (s, 1H), 3.9 (m, 2H), 3.4 (m, 6H), 3.2 (m, 2H).

reactant | HOBt | 0.18 mmol, 24 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.57 mmol, 74 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-phenyl-1H-pyrazole-3-carboxylic acid | C1(=CC=CC=C1)C1=CC(=NN1)C(=O)O | C10H8N2O2
reactant | hydrochloride | 0.14 mmol, 32 mg | Cl | ClH
reactant | EDCI.HCl | 0.18 mmol, 34 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-amino-1-[4-(2,5-dichloro-benzoyl)-piperazin-1-yl]-ethanone hydrochloride | 0.14 mmol, 50 mg | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)Cl)Cl)=O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 5-phenyl-1H-pyrazole-3-carboxylic acid {2-[4-(2,5-dichloro-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 89.47% Yield | ClC1=C(C(=O)N2CCN(CC2)C(CNC(=O)C2=NNC(=C2)C2=CC=CC=C2)=O)C=C(C=C1)Cl | C23H21Cl2N5O3
